US07002049B2
Self-metathesis of 1,2-dihydroxy-3-butene. 1,2-Dihydroxy-3-butene (158 mg, 1.8 mmol) and (PCy3)2Cl2Ru═CHPh (30 mg, 0.036 mmol, 2.0 mol %) were dissolved in dry dichloromethane (5 ml). The solution was degassed then heated to reflux. Gradually, the solution's purple color changed to red-brown and a white solid formed. After 21 h heating was stopped and the white solid was filtered and dried in vacuo to give 11 mg, (0.074 mmol, 8.2% yield) of 3,4-dideoxyhexitol. 1H NMR (D2O) δ 5.80 (s, 1H), 4.25 (br s, 1H), 3.62 (m, 1H), 3.52 (m, 1H).

reactant | 1,2-dihydroxy-3-butene | OCC(C=C)O | C4H8O2
reactant | 1,2-Dihydroxy-3-butene | 1.8 mmol, 158 mg | OCC(C=C)O | C4H8O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3,4-dideoxyhexitol | 0.074 mmol, 8.2% yield | C(CC(CO)O)C(CO)O | C6H14O4
